US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-chloro-benzamide
The title compound (27 mg, 66%) was prepared analogously to example 7 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 4-chlorobenzoyl chloride. MS: 407.4 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-chloro-benzamide | 27 mg, 66% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC=C(C=C2)Cl)=O)C=C1)OCC | C21H24Cl2N2O2
